US07109228B2
4-(3,5-Dichlorophenoxy)-3,5-dimethyl-1H-pyrazole
A mixture of 3-chloro-2,4-pentanedione (5.00 g, 37.0 mmol), 3,5-dichlorophenol (6.03 g, 37.0 mmol), cesium carbonate (12.0 g, 37.0 mmol) and acetone (40 ml) was heated under reflux for 18 hours. After cooling the solid was removed by filtration and the filtrate concentrated under reduced pressure. The intermediate was dissolved in ethanol (30 ml) and hydrazine hydrate (1.85 g, 37.0 mmol) was added and the mixture heated at 60° C. for 30 minutes. After cooling the mixture was concentrated under reduced pressure and the residue purified by flash column chromatography on silica gel eluting with ethyl acetate:pentane (30:70, by volume) to provide the title compound (3.00 g) as a yellow oil which solidified on standing to leave a yellow solid, m.p. 85–87° C.

reactant | 3-chloro-2,4-pentanedione | 37.0 mmol, 5.00 g | ClC(C(C)=O)C(C)=O | C5H7ClO2
reactant | 3,5-dichlorophenol | 37.0 mmol, 6.03 g | ClC=1C=C(C=C(C1)Cl)O | C6H4Cl2O
reactant | cesium carbonate | 37.0 mmol, 12.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | hydrazine hydrate | 37.0 mmol, 1.85 g | O.NN
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | 4-(3,5-Dichlorophenoxy)-3,5-dimethyl-1H-pyrazole | 3.00 g | ClC=1C=C(OC=2C(=NNC2C)C)C=C(C1)Cl | C11H10Cl2N2O
